US05013863
A solution of 0.64 g of ethyl 3-(N-tert.-butyloxycarbonylamino)-2-(4-chlorophenyl)-1-hydroxy-propyl(methyl)pho sphinate in 12 ml of concentrated aqueous hydrochloric acid is heated to reflux for 5 hours. The mixture is then cooled and evaporated to dryness in vacuo. The residue is repeatedly co-evaporated with methanol until the hydrochloride salt is obtained as a foam. This is dissolved in 50 ml of methanol and treated with 25 ml of propylene oxide after 40 minutes stirring at room temperature a solid precipitates, and the suspension stirred for a further 11/2hours. The solid is collected by filtration washed with propylene oxide and ether and dried the solid is redissolved in methanol at elevated temperature and filtered. Concentration in vacuo and dilution with ether affords a solid which is collected and dried to give 3-amino-2-(4-chlorophenyl)-1-hydroxy-propyl(methyl)phosphinic acid, m.p. 240-241° C.

reactant | ethyl 3-(N-tert.-butyloxycarbonylamino)-2-(4-chlorophenyl)-1-hydroxy-propyl(methyl)pho sphinate | 0.64 g | C(C)(C)(C)OC(=O)NCC(C(O)P(OCC)(=O)C)C1=CC=C(C=C1)Cl | C17H27ClNO5P
reactant | propylene oxide | 25 ml | C1C(C)O1 | C3H6O
solvent | hydrochloric acid | 12 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 3-amino-2-(4-chlorophenyl)-1-hydroxy-propyl(methyl)phosphinic acid | NCC(C(O)P(O)(=O)C)C1=CC=C(C=C1)Cl | C10H15ClNO3P
